US06858600B2
General Procedure for the Preparation of Terpyridyl Proteomimetics According to FIG. 19, Scheme 19
Nicotinoyl chloride hydrochloride (0.3 g, 1.685 mmol), DIEA (0.65 g, 5.06 mmol, 3.0 eqv), and ortho- or meta-anisidine (0.21 g, 1.68 mmol, 1 eqv) were dissolved in CH2Cl2 and stirred at rt for 48 h. The solution was extracted with 1N HCl solution. The aqueous layer was neutralized with a NaHCO3 solution and extracted with CH2Cl2. The organic extracts were combined, dried (MgSO4), filtered, and concentrated in vacuo to give a white solid.

reactant | Nicotinoyl chloride hydrochloride | 1.685 mmol, 0.3 g | Cl.C(C1=CN=CC=C1)(=O)Cl
reactant | DIEA | 5.06 mmol, 0.65 g, 3.0 eqv | CCN(C(C)C)C(C)C | C8H19N
reactant | meta-anisidine | 1.68 mmol, 0.21 g, 1 eqv | COC1=CC(=CC=C1)N | C7H9NO
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | Terpyridyl | N1=C(C=CC=C1)C1=NC=CC=C1C1=NC=CC=C1 | C15H11N3
